US09290623B2
Into a 200 mL flask equipped with a stirrer, a thermometer, and a condenser tube, 4.07 g of a 35% by weight tetramethylammonium hydroxide aqueous solution and 28.94 g of acetone were charged to prepare a reaction solvent. A mixture solution of 6.02 g (70 mol % in all silanes) of methyl triethoxysilane, 4.18 g (30 mol % in all silanes) of methylsulfonyl methylphenyl trimethoxysilane, and 4.18 g of acetone was prepared. While the reaction solvent was stirred with a magnetic stirrer, the mixture solution was added dropwise into the reaction solvent at room temperature. After the completion of the addition, while maintaining the temperature of the resultant reaction mixture at 40° C. using an oil bath, the reaction was progressed for 240 minutes and then the reaction mixture was cooled down to room temperature, followed by adding 2 mol % hydrochloric acid to the reaction mixture to neutralize the reaction mixture. To the reaction liquid, 70 mL of ethyl acetate and 70 mL of water were added and the resultant reaction mixture was shaken, followed by subjecting the reaction mixture to phase separation into two phases. Further, the organic phase was washed with 70 mL of water three times. To the resultant organic phase, 12 g of propylene glycol monomethyl ether acetate was added and from the organic phase, methanol and ethanol as reaction by-products and water were distilled off under reduced pressure. The resultant reaction mixture was concentrated to obtain a hydrolysis-condensation product (polymer) propylene glycol monomethyl ether acetate solution. To the obtained solution, propylene glycol monoethyl ether was added to adjust the resultant solution to contain a solid residue in a proportion of 20% by weight at 160° C. The obtained polymer (corresponding to Formula (F-4)) had a weight-average molecular weight measured by GPC of Mw 6,200 in terms of polystyrene.

reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | methyl triethoxysilane | C[Si](OCC)(OCC)OCC | C7H18O3Si
reactant | methylsulfonyl methylphenyl trimethoxysilane | CS(=O)(=O)C(O[Si](OC)(OC)C1=CC=CC=C1)C | C11H18O5SSi
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 70 mL | O | H2O
solvent | acetone | 4.18 g | CC(=O)C | C3H6O
solvent | acetone | 28.94 g | CC(=O)C | C3H6O
product | propylene glycol monomethyl ether acetate | C(C)(=O)OC(COC)C | C6H12O3
